US05591752
Methyl 4-methoxy-o-toluate
12.6 g of a 28% sodium methylate methanol solution and 4.2 g of copper iodide were added to 5 g of methyl 4-bromo-toluate dissolved in 20 ml of dimethylformamide and the mixture was refluxed under heating for 2 hours. The reaction mixture was adjusted to about pH 2 by adding 1N-hydrochloric acid thereto and extracted with ethyl acetate. and the organic layer was washed with a saturated saline solution and then dried over anhydrous sodium sulfate. The residue obtained by removing the solvent was applied to silica gel column chromatography to obtain 2.47 g of the title compound.

reactant | methyl 4-bromo-toluate | 5 g | BrC=1C=C(C(=CC1)C)C(=O)OC | C9H9BrO2
reactant | hydrochloric acid | Cl | ClH
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | copper iodide | 4.2 g | [Cu](I)I
product | Methyl 4-methoxy-o-toluate | 2.47 g | COC=1C=C(C(=CC1)C)C(=O)OC | C10H12O3
